US08309550B2
3-(4-(1-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)phenol (Compound 13)
Prepared by treatment of (E)-3-(dimethylamino)-1-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one and 1-(3-hydroxyphenyl)guanidine hydrochloride. 1H-NMR (DMSO-d6) δ: 1.18 (t, 3H, J=7.2 Hz, CH3), 4.37 (q, 2H, J=7.2 Hz, CH2), 6.40 (m, 1H, Ph-H), 7.08 (t, 1H, J=7.6 Hz, Ph-H), 7.18 (m, 1H, Ar—H), 7.24 (d, 1H, J=5.6 Hz, Pyrimidin-H), 7.37 (s, 1H, Ph-H), 8.36 (m, 2H, Pyrimidin-H and Ar—H), 8.59 (s, 1H, Ar—H), 9.00 (d, 1H, J=8.0 Hz, Ph-H), 9.24 (s, 1H, Ar—H), 9.33 (s, 1H, NH). MS (ESI+) m/z 332.1355 (M+H)+.

reactant | (E)-3-(dimethylamino)-1-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CN(C2=NC=CC=C21)CC)C | C14H17N3O
reactant | 1-(3-hydroxyphenyl)guanidine hydrochloride | Cl.OC=1C=C(C=CC1)NC(=N)N
product | 3-(4-(1-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)phenol | C(C)N1C=C(C=2C1=NC=CC2)C2=NC(=NC=C2)NC=2C=C(C=CC2)O | C19H17N5O
